US08470841B2
1b. N-{2-[4-(5-Cyclopentyloxypyridin-2-yloxy)phenyl]ethyl}acetamide
N-[2-(4-Hydroxyphenyl)ethyl]acetamide (668.3 mg, 3.73 mmol), 2-chloro-5-cyclopentyloxypyridine (737 mg, 3.73 mmol) and cesium carbonate (1.458 g, 4.475 mmol) were treated at 230° C. in 24 ml of DMF in a microwave reactor for 2 h. The reaction mixture was concentrated, and the residue was taken up in ethyl acetate and water. The organic phase was separated off, concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 8 mg (1%), M+H+: 341.13.

reactant | N-[2-(4-Hydroxyphenyl)ethyl]acetamide | 3.73 mmol, 668.3 mg | OC1=CC=C(C=C1)CCNC(C)=O | C10H13NO2
reactant | 2-chloro-5-cyclopentyloxypyridine | 3.73 mmol, 737 mg | ClC1=NC=C(C=C1)OC1CCCC1 | C10H12ClNO
reactant | cesium carbonate | 4.475 mmol, 1.458 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 24 ml | CN(C)C=O | C3H7NO
product | N-{2-[4-(5-Cyclopentyloxypyridin-2-yloxy)phenyl]ethyl}acetamide | C1(CCCC1)OC=1C=CC(=NC1)OC1=CC=C(C=C1)CCNC(C)=O | C20H24N2O3
